US06743794B2
[5-chloro-3-(6-chloro-2-fluorophenyl)isoxazol-4-yl]-N-{3-[(phenylcarbonylamino)-methyl]cyclohexyl}carboxamide
In a fashion similar to that described for preparation 267, 4-carboxy-5-chloro-3-(2-chloro-5-fluorophenyl)isoxazole acid (0.22 g, 0.84 mmol), dichloromethane (2 ml), oxalyl chloride (0.15 ml, 1.68 mmol), DMF (0.01 ml), dichloromethane (5 ml), N-(3-Amino-cyclohexylmethyl)-benzamide (0.15 g, 0.65 mmol), and triethylamine (0.35 ml, 2.52 mmol) gave the title compound (0.29 g, 90%) after flash chromatography (silica gel, Acetone/CH2Cl2 gradient). Mass Spectrum (ES+) (m/z) 490.1 [M+1].

reactant | 4-carboxy-5-chloro-3-(2-chloro-5-fluorophenyl)isoxazole | 0.84 mmol, 0.22 g | C(=O)(O)C=1C(=NOC1Cl)C1=C(C=CC(=C1)F)Cl | C10H4Cl2FNO3
reactant | oxalyl chloride | 1.68 mmol, 0.15 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N-(3-Amino-cyclohexylmethyl)-benzamide | 0.65 mmol, 0.15 g | NC1CC(CCC1)CNC(C1=CC=CC=C1)=O | C14H20N2O
reactant | triethylamine | 2.52 mmol, 0.35 ml | C(C)N(CC)CC | C6H15N
reactant | Acetone CH2Cl2 | CC(=O)C.C(Cl)Cl
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | DMF | 0.01 ml | CN(C)C=O | C3H7NO
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | [5-chloro-3-(6-chloro-2-fluorophenyl)isoxazol-4-yl]-N-{3-[(phenylcarbonylamino)-methyl]cyclohexyl}carboxamide | 0.29 g, 90% | ClC1=C(C(=NO1)C1=C(C=CC=C1Cl)F)C(=O)NC1CC(CCC1)CNC(=O)C1=CC=CC=C1 | C24H22Cl2FN3O3
